US07317027B2
(ii) 6-Amino-5-iodo-nicotinic acid methyl ester
To 5 g 6-Amino-nicotinic acid methyl ester and 16.2 g Bis(pyridine)iodonium(I) tetrafluoroborate in 250 mL DCM, 7.6 mL Trifluoromethanesulfonic acid were added dropwise at 0° C. The mixture was stirred for 24 h at RT. Then additional 3.2 g Bis(pyridine)iodoniun(I) tetrafluoroborate and 1.5 mL Trifluoromethanesulfonic acid were added. After stirring for 2 h at RT the reaction mixture was concentrated under reduced pressure and then taken-up with concentrated aqueous Na2SO3 solution and brought to pH 8 with concentrated aqueous ammonia. The mixture was extracted with ethyl acetate (2×150 ml). The combined organic layers were washed with brine and then dried over MgSO4. After filtration the solvent was removed under reduced pressure and the residue was codestilled with 100 mL toluene. Yield: 9.6 g.

reactant | 6-Amino-nicotinic acid methyl ester | 5 g | COC(C1=CN=C(C=C1)N)=O | C7H8N2O2
reactant | Bis(pyridine)iodonium(I) tetrafluoroborate | 16.2 g | [B-](F)(F)(F)F.C1=CC=NC=C1.C1=CC=NC=C1.[IH2+]
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
solvent | Trifluoromethanesulfonic acid | 7.6 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
solvent | Trifluoromethanesulfonic acid | 1.5 mL | FC(S(=O)(=O)O)(F)F | CHF3O3S
product | 6-Amino-5-iodo-nicotinic acid methyl ester | COC(C1=CN=C(C(=C1)I)N)=O | C7H7IN2O2
